data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_620747_2,[C:1]([C:3]([H:15])([H:16])[H:17])([O:6][N:4]([C:2]([H:12])([H:13])[H:14])[C:5](=[O:8])[H:11])([O:7][H:9])[H:10]>>[C:1]([C:3]([H:15])([H:16])[H:17])([O:6][N:4]([C:2]([H:12])([H:13])[H:14])[C:5]([O:8][H:9])([H:10])[H:11])=[O:7],54.180859999962365
MR_282214_2,[C:1](\[C:2]([H:15])([H:16])[H:17])([C:4]([C:3]([N:5]([H:10])[H:11])([N:8]([H:13])[H:14])[H:9])=[C:7]([H:18])[H:19])=[N:6]\[H:12]>>[C:1]([C:2]([H:15])([H:16])[H:17])([C:4](/[C:3]([N:5]([H:10])[H:11])=[N:8]/[H:14])=[C:7]([H:18])[H:19])([N:6]([H:12])[H:13])[H:9],56.83643999999916
MR_277457_1,[C:1]([C:4]([C:5]([C:2]([H:14])([H:15])[H:19])[C:3]([H:16])([H:17])[H:18])/[C:6](=[N:8]\[O:7][H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:4]1=[C:6]([H:10])[N:8]([O:7][H:9])[C:5]1([C:2]([H:14])([H:15])[H:19])[C:3]([H:16])([H:17])[H:18])([H:11])([H:12])[H:13],45.00304499998478
MR_280134_0,[C:1]1([O:9][H:10])([H:11])[C:6]([C:2]([C:4]([H:17])([H:18])[H:19])([N:7]([H:13])[H:14])[H:12])([C:3]([C:5]([H:22])([H:23])[H:24])([H:15])[H:16])[C:8]1([H:20])[H:21]>>[C:1]([C:2]([C:4]([H:17])([H:18])[H:19])([N:7]([H:13])[H:14])[H:12])([C:6]([C:3]([C:5]([H:22])([H:23])[H:24])([H:15])[H:16])=[C:8]([H:20])[H:21])([O:9][H:10])[H:11],72.30180500001069
MR_692020_0,[C:1](\[C:2]([C:5]([C:7]([H:11])([H:17])[H:18])([O:8][H:9])[H:14])=[C:6]([H:15])[H:16])(=[N:3]/[H:10])[N:4]([H:12])[H:13]>>[C:1]([C:2]([C:5](=[C:7]([H:17])[H:18])[H:14])=[C:6]([H:15])[H:16])([N:3]([H:10])[H:11])([N:4]([H:12])[H:13])[O:8][H:9],65.9264050000202
MR_421637_1,[C:1]([O:6][C:3]([C:2]([N:4]([H:12])[H:13])([O:5][H:10])[H:11])([H:14])[H:15])([O:7][H:9])=[O:8]>>[C:1]1([O:7][H:9])([O:8][H:10])[O:5][C:2]([N:4]([H:12])[H:13])([H:11])[C:3]([H:14])([H:15])[O:6]1,49.56873500001436
MR_195389_0,[C:1]1([C:2]([O:5][H:8])([H:11])[H:12])([H:9])[C:3](=[O:7])/[C:4]1=[N:6]/[H:10]>>[C:1](=[C:2](\[O:5][H:8])[H:11])(\[C:4]([C:3](=[O:7])[H:12])=[N:6]/[H:10])[H:9],15.135927499987218
MR_260903_1,[C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])=[C:5]([C:6]([C:4]([H:16])([H:17])[H:18])=[O:7])[O:8][H:9]>>[C:1]1([C:2]([H:10])([H:11])[H:12])([C:3]([H:13])([H:14])[H:15])[C:5]([O:8][H:9])=[C:6]([C:4]([H:16])([H:17])[H:18])[O:7]1,55.548182499970125
MR_529325_1,[C:1]([N:2]([H:8])[H:9])(=[C:6](\[N:4]([H:12])[H:13])[H:15])/[N:7]=[C:5](\[N:3]([H:10])[H:11])[H:14]>>[C:1]1([N:2]([H:8])[H:9])=[N:7][C:5]([N:3]([H:10])[H:11])([H:14])[C:6]1([N:4]([H:12])[H:13])[H:15],41.1677649999659
MR_9896_1,[C:1]1([C:4]([H:16])([H:17])[H:18])([H:10])[C:3]([H:14])([H:15])[C:2]([C:5]([H:19])([H:21])[H:22])([C:6]([H:20])([H:23])[H:24])[C:7]1([N:8]([H:12])[H:13])[O:9][H:11]>>[C:1]([C:3]([C:2]([C:5]([H:19])([H:21])[H:22])([C:6]([H:20])([H:23])[H:24])[H:11])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])([C:7]([N:8]([H:12])[H:13])=[O:9])[H:10],58.11089249999171
MR_398892_1,[N:1](/[C:2]([N:5]([H:13])[H:14])=[N:7]/[N:4]([H:11])[H:12])([N:3]([H:9])[H:10])[N:8]=[C:6]([H:15])[H:16]>>[N:1](=[C:2](/[N:5]([H:13])[H:14])[N:7]([N:4]([H:11])[H:12])[N:8]=[C:6]([H:15])[H:16])\[N:3]([H:9])[H:10],62.15889500000856
MR_19449_0,[C@:1]([C:2]([C:4]([H:16])([H:18])[H:19])([C:5]([H:17])([H:20])[H:21])[C:6](=[O:8])[H:10])([C:3]([H:13])([H:14])[H:15])([N:7]([H:11])[H:12])[H:9]>>[C:1]([C:3]([H:13])([H:14])[H:15])([C:6]([C:2]([C:4]([H:16])([H:18])[H:19])([C:5]([H:17])([H:20])[H:21])[H:10])=[O:8])([N:7]([H:11])[H:12])[H:9],62.03276749997031
MR_622990_0,[C:1](/[C:3](=[N:7]/[O:5][H:8])[H:12])(=[C:4](\[N:2]([H:10])[H:11])[H:13])[O:6][H:9]>>[C:1]1([O:6][H:9])=[C:3]([H:12])[N:7]([O:5][H:8])[C:4]1([N:2]([H:10])[H:11])[H:13],41.779577499955
MR_217829_0,[C:1]([C:3]([O:6][H:9])=[O:8])(/[C:4](=[C:5](/[C:2]([H:14])([H:15])[H:16])[H:13])[H:12])([O:7][H:10])[H:11]>>[C:1](=[C:4](\[C:5]([C:2]([H:14])([H:15])[H:16])([C:3]([O:6][H:9])=[O:8])[H:13])[H:12])(\[O:7][H:10])[H:11],71.53876500001104
MR_50653_0,[C:1]1([C:4]([C:2]([H:9])([H:10])[H:11])=[O:7])([H:8])[C:5]([C:3]([H:12])([H:13])[H:14])=[N:6]1>>[C:1]1([H:8])=[C:5]([C:3]([H:12])([H:13])[H:14])[N:6]1[C:4]([C:2]([H:9])([H:10])[H:11])=[O:7],56.47562750001839
MR_636424_1,[C:1](/[C:4]([N:2]([C:3]([O:8][H:10])=[O:9])[N:5]([H:11])[H:12])=[C:7](\[N:6]([H:13])[H:14])[H:15])([H:16])([H:17])[H:18]>>[C:1](/[C:4](=[N:2]/[N:5]([H:11])[H:12])[C@:7]([C:3]([O:8][H:10])=[O:9])([N:6]([H:13])[H:14])[H:15])([H:16])([H:17])[H:18],49.57187250000644
MR_650210_0,[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[N:9]([C:6]([C:5]([H:20])([H:21])[H:22])=[O:7])[O:8][H:10]>>[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[O:7]/[C:6]([C:5]([H:20])([H:21])[H:22])=[N:9]/[O:8][H:10],57.9006799999874
MR_276124_1,[C:1]1([C:3]([C:6]([O:8][H:10])=[O:9])([H:15])[H:16])([C:5]([H:18])([H:19])[H:20])[C:2]([N:7]([H:12])[H:13])([H:11])[C:4]1([H:14])[H:17]>>[C:1]1([C:4](/[C:2](=[N:7]/[H:12])[H:11])([H:14])[H:17])([C:5]([H:18])([H:19])[H:20])[C:3]([H:15])([H:16])[C:6]1([O:8][H:10])[O:9][H:13],52.37114999996578
